US06812226B2
(i) 1,1-Dimethylethyl 4-{[2-(hydroxymethyl)phenyl]amino}-3-methylpiperidine-1-carboxylate
The product was prepared from N-tert-butoxycarbonyl-3-methyl-4-piperidone (4.3 g) and 2-amino-benzyl alcohol (2.59 g) using the method of example 7 step (i). Yield 6.3 g as a mixture of diastereoisomers.

reactant | N-tert-butoxycarbonyl-3-methyl-4-piperidone | 4.3 g | C(C)(C)(C)OC(=O)N1CC(C(CC1)=O)C | C11H19NO3
reactant | 2-amino-benzyl alcohol | 2.59 g | NC1=C(CO)C=CC=C1 | C7H9NO
product | 1,1-Dimethylethyl 4-{[2-(hydroxymethyl)phenyl]amino}-3-methylpiperidine-1-carboxylate | OCC1=C(C=CC=C1)NC1C(CN(CC1)C(=O)OC(C)(C)C)C | C18H28N2O3
